US05276035
1-(2-[bis(4-fluorophenyl)methoxy]ethyl)-4-[4-oxo-4-(2-thienyl)butyl]piperazine
A mixture of 1.67 g (0.005 mol) 1-(2-[bis(4-fluorophenyl)-methoxy]ethyl)piperazine, (U.S. Pat. No. 1545094), 1.89 g (0.010 mol) 3-chloropropyl-2-thienyl ketone, 1.52 g (0.011 mol) potassium carbonate and 30 ml methylisobutyl ketone was stirred and heated to reflux for 45 h. The reaction mixture was then evaporated in vacuo. The residue was redissolved in dichloromethane (1 00 ml) and washed twice with water (100 ml). The organic layer was then separated and dried with sodium sulfate. Evaporation in vacuo left a brown syrup. This was redissolved in dry ether and precipitated as the dihydrochloride with gaseous hydrogen chloride. The precipitate was collected by filtration and recrystallized from isopropanol. White crystals, m.p. 185°-88° C. (0.98 g=35%).

reactant | 1-(2-[bis(4-fluorophenyl)-methoxy]ethyl)piperazine | 0.005 mol, 1.67 g | FC1=CC=C(C=C1)C(OCCN1CCNCC1)C1=CC=C(C=C1)F | C19H22F2N2O
reactant | 3-chloropropyl-2-thienyl ketone | 0.010 mol, 1.89 g | ClCCCC(=O)C=1SC=CC1 | C8H9ClOS
reactant | potassium carbonate | 0.011 mol, 1.52 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylisobutyl ketone | 30 ml | CC(=O)CC(C)C | C6H12O
product | 1-(2-[bis(4-fluorophenyl)methoxy]ethyl)-4-[4-oxo-4-(2-thienyl)butyl]piperazine | FC1=CC=C(C=C1)C(OCCN1CCN(CC1)CCCC(C=1SC=CC1)=O)C1=CC=C(C=C1)F | C27H30F2N2O2S
